US04739047
Allyl Oxalofluoride [Allyloxalyl Fluoride] CH2 =CHCH2O(CO)COF
By the procedure of the preceding Preparation, allyl oxalochloride (252.5 g, 1.70 mol) and cesium fluoride (284 g, 1.87 mol) were converted to twice distilled title product, b.p. 48°-50° C./35 mm; 124°-126° C. (atmospheric pressure).

reactant | allyl oxalochloride | 1.70 mol, 252.5 g | C(C=C)OC(C(=O)Cl)=O | C5H5ClO3
reactant | cesium fluoride | 1.87 mol, 284 g | [F-].[Cs+]
product | Allyl Oxalofluoride | C(C=C)OC(C(=O)F)=O | C5H5FO3
